US07846956B2
In a nitrogen atmosphere, 1.44 g of lithium aluminum hydride was added to 100 ml of tetrahydrofuran, and a solution of 7.39 g of methyl 1-benzyl-1H-pyrazole-4-carboxylate in 50 ml of tetrahydrofuran was added dropwise at 0° C. over 30 minutes. Thereafter, the mixture was stirred at room temperature for 5 hours. The reaction mixture was cooled to 0° C., and 15 ml of a 1 mol/L aqueous potassium hydroxide solution was added dropwise. Precipitates were filtered, washed with tetrahydrofuran and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 6.32 g of (1-benzyl-1H-pyrazol-4-yl)methanol.

reactant | lithium aluminum hydride | 1.44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-benzyl-1H-pyrazole-4-carboxylate | 7.39 g | C(C1=CC=CC=C1)N1N=CC(=C1)C(=O)OC | C12H12N2O2
reactant | potassium hydroxide | 1 mol/L | [OH-].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (1-benzyl-1H-pyrazol-4-yl)methanol | 6.32 g | C(C1=CC=CC=C1)N1N=CC(=C1)CO | C11H12N2O
